Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
long term monitoring
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Interview and exam performed with translation from ___
speaking team member

The patient is a ___ year-old right-handed ___ speaking woman
with a history notable for focal epilepsy, hypothyroidism,
depression, chronic insomnia who presents to the EMU for
monitoring on EEG for spell capture, characterization, and
quantification.  In terms of epilepsy risk factors she has a
maternal aunt with epilepsy, and she has suffered multiple
traumatic brain injuries including one when she was a child, and
one approximately ___ years ago.  She says her typical episodes
involve memory lapses and confusion and last a few minutes at a
time.  She endorses worsening of her seizures lately with a
concomitant worsening of her mood and sleep habits.  She is
treated with Keppra 1 g twice daily.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
HEADACHE                                                        

COMPLEX PARTIAL SEIZURES                                        

HYPOTHYROIDISM                                                  
history of Hashimoto's thyroiditis                              

DEPRESSION                                                      

INSOMNIA                                                        

ANXIETY                                                         

ANEMIA                                                          

GASTROESOPHAGEAL REFLUX                                         

CONSTIPATION                                                    

OBGYN                                                           
PAST OB HISTORY G3P___ C-Section: 3 PAST GYN HISTORY She is    
Postmenopausal, her LMP was on ___. She denies having an     
abnormal Pap test and her last one was in ___.               

H/O TYPHOID FEVER AT AGE ___                                     
necessitated 12 days of hospitalization                         

 
Social History:
___
Family History:
Relative Status   Age Problem              Onset Comments       
Sister                ___ CANCER                              

Aunt                  BREAST CANCER              paternal aunt  

Mother   Living   ___  ARTHRITIS                                 
                      BACK PAIN                                 

Father   ___     ALCOHOL ABUSE                             

Comments: FAMILY Her family history is unremarkable for Ovarian 
          cancer. Breast cancer: paternal aunt ___ cancer:    
          sister brother murdered in ___ sister died of   
          ___ 7 siblings total                                

 
Physical Exam:
Admission Physical Exam:
Vitals: 24 HR Data (last updated ___ @ 1630)
    Temp: 98.2 (Tm 98.2), BP: 90/61 (90-114/61-78), HR: 75
(63-75), RR: 18, O2 sat: 97%, O2 delivery: Ra
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. The pt had good
knowledge of current events. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: No deficits to light touch, pinprick, cold sensation,
proprioception throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1

Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: deferred

Discharge Physical Exam
VITALS:
___ 1720 Temp: 97.6 PO BP: 121/81 HR: 91 RR: 18 O2 sat: 98%
O2 delivery: RA 
 General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Awake, alert, oriented to self, place, time and
situation. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Speech was not dysarthric. Able to follow both midline and
appendicular commands. Intact naming. 

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted. Antigravity and symmetric throughout. 

-Sensory: Intact to light touch throughout. 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

-Gait: narrow based, good initiation, symmetric arm swing. 
romberg negative.
 
Pertinent Results:
___ 04:05PM   GLUCOSE-129* UREA N-14 CREAT-0.7 SODIUM-140 
POTASSIUM-4.1 CHLORIDE-105 TOTAL CO2-21* ANION GAP-14
___ 04:05PM   estGFR-Using this
___ 04:05PM   ALT(SGPT)-21 AST(SGOT)-25 ALK PHOS-116* TOT 
BILI-0.3
___ 04:05PM   CALCIUM-8.7 PHOSPHATE-3.7 MAGNESIUM-2.0
___ 04:05PM   WBC-5.2 RBC-4.05 HGB-11.7 HCT-34.0 MCV-84 
MCH-28.9 MCHC-34.4 RDW-13.2 RDWSD-40.1
___ 04:05PM   PLT COUNT-211
___ 03:38PM URINE  HOURS-RANDOM
___ 03:38PM URINE  UCG-NEGATIVE
 
Brief Hospital Course:
Ms. ___ is a ___ ___ woman with PMH 
of episodes concerning for seizure on Keppra 1g BID, depression 
on nortriptyline, insomnia, who was admitted for event 
characterization. Her previous episodes were described as "weird 
feeling", vertigo, time lapsing, language impairment, occasional 
bad taste and smell. There were also episodes of loss of 
consciousness. While hospitalized she had a number of her 
typical clinical episodes, none of which had any EEG correlate. 
Interictal EEG revealed frequent stretches of left temporal 
epileptiform discharges which were felt to be either a normal 
variant or other non-epileptiform pattern. It was reassuring 
that these left temporal discharges improved with sleep, and 
were never seen to evolve, and never correlated with symptoms. 
Therefore, her episodes were most consistent with a functional 
neurological disorder. As there is no evidence of seizure or a 
diagnosis of epilepsy, we weaned her off levetiracetam and will 
discharge her off of this medication. She will follow up with 
her outpatient epileptologist such as ambulatory EEG or 
medication changes. We counseled her on not driving for 6 months 
after a loss of consciousness event per ___ law.

# PNES vs Epilepsy
- no electrographic seizures captured during her typical 
episodes
- frequent runs of left temporal epileptiform discharges
- DC off Keppra
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Influenza Vaccine Quadrivalent 0.5 mL IM NOW X1 
Start: ___, First Dose: Next Routine Administration Time 
2. LevETIRAcetam 1000 mg PO BID 
3. Omeprazole 20 mg PO DAILY 
4. Levothyroxine Sodium 112 mcg PO DAILY 
5. Nortriptyline 10 mg PO QHS 

 
Discharge Medications:
1.  Levothyroxine Sodium 112 mcg PO DAILY  
2.  Nortriptyline 10 mg PO QHS  
3.  Omeprazole 20 mg PO DAILY  
4. HELD- LevETIRAcetam 1000 mg PO BID  This medication was held. 
Do not restart LevETIRAcetam until discussing with outpatient 
epileptologist

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Psychogenic Non Epileptic Seizures
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

You were hospitalized for long term monitoring of your seizure 
like events. While you were hospitalized, we monitored you on 
EEG and tried to provoke seizures with weaning medications, 
sleep deprivation, flashing lights, and hyperventilation. We did 
not capture any seizures. We observed episodes where you 
appeared less responsive and had eye fluttering. These events 
did not show seizure activity on the EEG. We think that these 
episodes are a stress response, not a seizure or epilepsy. 
However, per ___ law, you should not drive for 6 
months after unexplained loss of consciousness event. 

We are changing your medications as follows:
STOP Levetiracetam/Keppra

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below. We will call you to set up a follow up 
appointment. 

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911):
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

It was a pleasure taking care of you!

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___